US06133454
Step A: Benzylidenesuccinic Acid
700 mmol of dimethyl succinate and then 20 ml of methanol are added to 290 mmol of sodium methylate dissolved in 80 ml of methanol. The mixture is brought to reflux, and 236 mmol of benzaldehyde are slowly added, followed by 20 ml of methanol. The mixture is maintained at reflux, with stirring, for one hour, and then 100 ml of methanol are distilled off. 120 ml of water and 120 ml of 10N sodium hydroxide solution are added to the concentrated reaction mixture. The removal of the methanol by distillation is continued. The residue is diluted with 150 ml of water. After the addition of dichloromethane, the diacid is precipitated by the slow addition of 12N hydrochloric acid. The diacid is filtered and washed with dicliloromethane and then with water. Drying yields the expected product.

reactant | dimethyl succinate | 700 mmol | C(CCC(=O)OC)(=O)OC | C6H10O4
reactant | sodium methylate | 290 mmol | C[O-].[Na+]
reactant | benzaldehyde | 236 mmol | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | Benzylidenesuccinic Acid | C(C1=CC=CC=C1)=C(C(=O)O)CC(=O)O | C11H10O4
